* Z:\mnt\design.r\spice\examples\6207.asc
V1 +V 0 3.3
R1 N002 N001 499
R2 N001 0 499
V3 IN 0 SINE(1.5 1 1Meg)
R3 N004 N006 499
R4 N006 0 499
R5 IN 0 75
R6 N003 N002 75
R7 N005 N004 75
R8 OUT1 0 75
R9 OUT2 0 75
T1 N003 0 OUT1 0 Td=50n Z0=75
T2 N005 0 OUT2 0 Td=50n Z0=75
XU1 IN N001 N002 +V 0 LT6205
XU2 IN N006 N004 +V 0 LT6205
.tran 30u
* Baseband Video Splitter/Cable Driver
.lib LTC2.LIB
.backanno
.end
